US06441015B2
2-Cyclopropylmethanesulfonyl-4-[2,6-dimethyl-4-(1H-tetrazol-5-ylamino)-phenoxy]-phenol
2-Cyclopropylmethanesulfonyl-4-[2,6-dimethyl-4-(1H-tetrazol-5-ylamino)-phenoxy]-phenol was prepared from 4-(3-cyclopropylmethanesulfonyl-4-hydroxy-phenoxy)-3,5-dimethyl-phenyl-cyanamide according to a procedure analogous to that described in EXAMPLE 1, Step C. Sodium azide (1.5 equiv) and ammonium chloride (10 equiv) were used, and the reaction was heated to 140° C. for 20 hours. After the reaction had been acidified, the aqueous mixture was extracted with ethyl acetate (3×10 ml). The combined organic extracts were washed with aqueous 1N HCl (3×50 ml), and brine (50 ml). The organic phase was dried over anhydrous Na2SO4, filtered, and concentrated. The residue was purified by preparative TLC (methanol:water:dichloromethane=15:1.5:83.5) to afford the title product of Example 7. MS (APCI−) Calc.: 415.1, Found: 413.8 (M−1).

reactant | 4-(3-cyclopropylmethanesulfonyl-4-hydroxy-phenoxy)-3,5-dimethyl-phenyl-cyanamide | C1(CC1)CS(=O)(=O)C=1C=C(OC2=C(C=C(C=C2C)NC#N)C)C=CC1O | C19H20N2O4S
reactant | Sodium azide | 1.5 equiv | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 10 equiv | [Cl-].[NH4+]
product | 2-Cyclopropylmethanesulfonyl-4-[2,6-dimethyl-4-(1H-tetrazol-5-ylamino)-phenoxy]-phenol | C1(CC1)CS(=O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)NC1=NN=NN1)C)O | C19H21N5O4S
